US05968923
1-(t-Butoxycarbonyl)-3-(3-hydroxypiperidyl)azetidine
A mixture of 1-(t-butoxycarbonyl)-3-methanesulphonyloxyazetidine (see International Patent Application Publication no. WO93/19059) (1.5 g, 4.78 mmol) and 3-hydroxypiperidine (1.9 g, 4 mol. equiv.) was heated at 110° C. for sixteen hours. The mixture was cooled to room temperature and partitioned between ethyl acetate (100 ml) and 5% aqueous sodium bicarbonate solution (100 ml). The layers were separated and the aqueous phase was extracted with a further portion of ethyl acetate (100 ml). The combined organic layers were dried over anhydrous magnesium sulphate. The solution was filtered, the solvent removed from the filtrate under reduced pressure and the crude product purified by column chromatography using silica gel eluting with methanol:dichloromethane (1:9, by volume) to give the title compound (1.4 g). TLC Rf=0.3 (silica, methanol:dichloromethane, 1:9, by volume).

reactant | 1-(t-butoxycarbonyl)-3-methanesulphonyloxyazetidine | C(C)(C)(C)OC(=O)N1CC(C1)OS(=O)(=O)C | C9H17NO5S
reactant | 3-hydroxypiperidine | 4 mol, 1.9 g | OC1CNCCC1 | C5H11NO
product | 1-(t-Butoxycarbonyl)-3-(3-hydroxypiperidyl)azetidine | 1.4 g | C(C)(C)(C)OC(=O)N1CC(C1)N1CC(CCC1)O | C13H24N2O3
